US05654326
A mixture of 220 mg (0.54 mmol) of [[3-(2-amino-1,2-dioxoethyl)-2-cyclopropyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester in 5 mL of 1N NaOH and 15 mL of MeOH was heated to maintain reflux for 0.67 hours, concentrated at reduced pressure and the residue taken up in EtOAc/water. The aqueous layer was separated, made acidic with 1N HCl to pH 2-3 and EtOAc added. A precipitate formed and was separated to give 169 mg (80% yield) of [[3-(2-amino-1,2-dioxoethyl)-2-cyclopropyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid, mp, 246°-249° C.

reactant | [[3-(2-amino-1,2-dioxoethyl)-2-cyclopropyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 0.54 mmol, 220 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C1CC1)C(C(=O)N)=O)=O | C23H22N2O5
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | [[3-(2-amino-1,2-dioxoethyl)-2-cyclopropyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid | 169 mg, 80% yield | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC1=CC=CC=C1)C1CC1)=O | C22H20N2O5
